US06221865B1
4-Amino-3′-methylbiphenyl
The title compound was prepared by Suzuki coupling of 1-bromo-4-nitrobenzene and 1-bromo-3-methylbenzene.

reactant | 1-bromo-4-nitrobenzene | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 1-bromo-3-methylbenzene | BrC1=CC(=CC=C1)C | C7H7Br
product | 4-Amino-3′-methylbiphenyl | NC1=CC=C(C=C1)C1=CC(=CC=C1)C | C13H13N
